US03962257
To a mixture of 5.0 g of magnesium turnings and 30 ml of tetrahydrofuran were added several crystals of iodine and 0.6 ml of ethylene dibromide. A vigorous reaction ensued. To the reaction mixture were added 20 ml. of tetrahydrofuran and a solution of 12.4 g of 1-methyl-3-chloromethylpiperidine in 30 ml of tetrahydrofuran and the reaction mixture was heated at reflux for 2.5 hours. A solution of 10.2 g of 4-fluorobenzonitrile in 13 ml of tetrahydrofuran was added to the reaction mixture and heating at reflux was resumed and continued for an additional three hours. The reaction mixture was cooled and poured into 150 ml of ten percent aqueous ammonium chloride (w/v); the organic and aqueous phase separated. The aqueous phase was isolated and extracted 4 times with benzene. The organic phase and benzene extracts were combined, washed four times with water and then twice with saturated aqueous sodium chloride, dried over anhydrous calcium sulfate, and filtered. The resulting solution was distilled and the residue was vacuum distilled to give 13.2 g of crude 1-methyl-3-(4-fluorophenacyl)-piperidine, bp 109°-113°/0.3 mm. The crude material was heated on a steam bath with 50 ml of 3 N hydrochloric acid for 15 minutes. The acidic solution was cooled, extracted with diethyl ether, and added to 100 ml of 3 N sodium hydroxide. The resulting alkaline solution was extracted with two 100-ml portions of diethyl ether and one 100-ml portion of benzene. The organic extracts were combined, dried over anhydrous sodium sulfate, and filtered. The organic solvents were distilled and the residue was vacuum distilled at 107°-110°/0.3 mm, then redistilled to give 11.4 g of 1-methyl-3-(4-fluorophenacyl)piperidine, bp 97°-102°/0.09 mm. The following elemental analysis was obtained:

reactant | magnesium | 5.0 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | ethylene dibromide | 0.6 ml | C(CBr)Br | C2H4Br2
reactant | 1-methyl-3-chloromethylpiperidine | 12.4 g | CN1CC(CCC1)CCl | C7H14ClN
reactant | 4-fluorobenzonitrile | 10.2 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-methyl-3-(4-fluorophenacyl)-piperidine | 13.2 g | CN1CC(CCC1)CC(=O)C1=CC=C(C=C1)F | C14H18FNO
